US05998433
A solution of 3.347 g (17.69 mmol) of 1-benzyl-4-piperidinone and 1.75 g (17.7 mmol) of cyclohexylamine in 150 ml of toluene was refluxed under dehydrating conditions for 2.5 hours in a Dean-Stark trap. After the reaction mixture was cooled to room temperature, the solvent was distilled off under reduced pressure to yield N-(1-benzyl-4-piperidylidene)cyclohexylamine. This product was used for the next reaction without purification.

reactant | 1-benzyl-4-piperidinone | 17.69 mmol, 3.347 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | cyclohexylamine | 17.7 mmol, 1.75 g | C1(CCCCC1)N | C6H13N
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | N-(1-benzyl-4-piperidylidene)cyclohexylamine | C(C1=CC=CC=C1)N1CCC(CC1)=NC1CCCCC1 | C18H26N2
